US08258138B2
iii) N-Benzyl-N-[4-(piperidine-1-carbonyl)-phenyl]-benzenesulfonamide (3)
To a stirred solution of (4-benzylamino-phenyl)-piperidin-1-yl-methanone (39 mg, 0.14 mmol) in dichloromethane (1 ml) was added benzene sulfonylchloride (57 μl, 0.46 mmol) followed by pyridine (42 μl, 0.5 mmol) and the reaction was heated to 40° C. for 20 hours. The reaction was allowed to cool to room temperature and partitioned between water (5 ml) and dichloromethane (5 ml). The organics were collected, concentrated in vacuo and purified by preparative TLC to afford the title compound as a white solid (38 mg, 62% yield). HPLC retention time 5.8 min. Mass spectrum (ES+) m/z 435 (M+H).

reactant | (4-benzylamino-phenyl)-piperidin-1-yl-methanone | 0.14 mmol, 39 mg | C(C1=CC=CC=C1)NC1=CC=C(C=C1)C(=O)N1CCCCC1 | C19H22N2O
reactant | benzene sulfonylchloride | 0.46 mmol, 57 μl | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | pyridine | 0.5 mmol, 42 μl | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | N-Benzyl-N-[4-(piperidine-1-carbonyl)-phenyl]-benzenesulfonamide | 38 mg, 62% yield | C(C1=CC=CC=C1)N(S(=O)(=O)C1=CC=CC=C1)C1=CC=C(C=C1)C(=O)N1CCCCC1 | C25H26N2O3S
